US04308259
(a) 2-(2Fluorophenyl)-2-sulphoacetylchloride
A solution of 2-(2-fluorophenyl)acetyl chloride (1.73 g, 10 mmole) in dichloromethane (20 ml) was treated with a suspension of sulphur trioxide--dioxane complex (15 mmole) in dichloroethane at 0° C. This mixture was stirred at room temperature for eighteen hours and evaporated to a yellow gum. νmax. (CHCl3) 1805 cm-1.

reactant | 2-(2-fluorophenyl)acetyl chloride | 10 mmole, 1.73 g | FC1=C(C=CC=C1)CC(=O)Cl | C8H6ClFO
reactant | sulphur trioxide | S(=O)(=O)=O | O3S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 2-(2Fluorophenyl)-2-sulphoacetylchloride | FC1=C(C=CC=C1)C(C(=O)Cl)S(=O)(=O)O | C8H6ClFO4S
